US07485637B2
8b: (2-Cyclopentyloxy-5-methanesulfonyl-phenyl)-[4-(4-methanesulfonyl-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-methanone
According to the procedure described for the synthesis of example 4, step f, the title compound has been synthesized from 2-cyclopentyloxy-5-methanesulfonyl-benzoic acid and 4-(4-Methanesulfonyl-phenyl)-1,2,3,6-tetrahydro-pyridine. MS (m/e): 503.9 (M+, 100%)

reactant | 2-cyclopentyloxy-5-methanesulfonyl-benzoic acid | C1(CCCC1)OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C13H16O5S
reactant | 4-(4-Methanesulfonyl-phenyl)-1,2,3,6-tetrahydro-pyridine | CS(=O)(=O)C1=CC=C(C=C1)C=1CCNCC1 | C12H15NO2S
product | (2-Cyclopentyloxy-5-methanesulfonyl-phenyl)-[4-(4-methanesulfonyl-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-methanone | C1(CCCC1)OC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCC(=CC1)C1=CC=C(C=C1)S(=O)(=O)C | C25H29NO6S2
